US05681858
(i) 3-Phenylthiocyclopentanone oxime
To a solution of 3-phenylthiocyclopentanone (Syn. Commun., 1987, 17, 1607) (6.00 g, 30 mmol) in dry pyridine (50 ml) was added hydroxylamine hydrochloride (3.20 g, 45 mmol) and the reaction mixture was stirred for 3 h at room temperature. After the solvent was evaporated off, the residue was partitioned between water (50 ml) and ethyl acetate (100 ml), the aqueous layer separated and extracted with ethyl acetate (100 ml). The combined organic layer was washed with 1N aqueous hydrochloric acid (100 ml), saturated aqueous sodium hydrogen carbonate solution (100 ml) and brine (100 ml), dried (MgSO4) and concentrated under reduced pressure to afford 6.10 g (98%) of the title compound as a pale yellow oil: 1 H NMR δ7.42-7.38 (m, 2H), 7.33-7.22 (m, 3H), 3.71 (m, 1H), 3.00-3.24 (m, 4H), 2.16 (m, 1H), 1.86 (m, 1H).

reactant | 3-phenylthiocyclopentanone | 30 mmol, 6.00 g | C1(=CC=CC=C1)SC1CC(CC1)=O | C11H12OS
reactant | hydroxylamine hydrochloride | 45 mmol, 3.20 g | Cl.NO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-Phenylthiocyclopentanone oxime | 6.10 g, 98% | C1(=CC=CC=C1)SC1CC(CC1)=NO | C11H13NOS
